US05179212
To a solution of (R)-3 hydroxy 4-(p-toluenesulfonyloxy)butylamine hydrochloride (8.8 g) in methanol 90 ml), sodium carbonate (3.3 g) was added and the mixture was stirred at room temperature for 8 hours. Then, the mixture was filtered, and the filtrate was evaporated under reduced pressure to obtain crude 3 pyrrolidinol. One tenth of the crude 3-pyrrolidinol was dissolved in methylene chloride. To the solution, triethylamine (432 μl ) was added, and after cooling to 0° C., benzoyl chloride (360 μl ) was added. After stirring for 2 hours, the mixture was evaporated under reduced pressure and purified by silica gel column chromatography (Wako Gel C200, an eluent: ethyl acetate/methanol (volume ratio of 95/5) to obtain pure N-benzoyl-3-pyrrolidinol (438 mg). Yield, 85 %.

reactant | 3-pyrrolidinol | N1CC(CC1)O | C4H9NO
reactant | triethylamine | 432 μl | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 360 μl | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-benzoyl-3-pyrrolidinol | 438 mg | C(C1=CC=CC=C1)(=O)N1CC(CC1)O | C11H13NO2
